US04440941
3-Chloroacetylsalicylic acid was combined with N-cyclopentylglycine t-butyl ester and N,N1 -dicyclohexylcarbodiimide at 0° C. in methylene chloride as described in Example I. Similar workup gave crude N-(3-chloroacetylsalicyloyl)-N-cyclopentylglycine t-butyl ester, which was cleaved to N-(3-chloroacetylsalicyloyl)-N-cyclopentylglycine using iodotrimethylsilane prepared in situ as described in Example I. Hydrolysis with aqueous sodium hydroxide (Example IV) provided the title compound.

reactant | 3-Chloroacetylsalicylic acid | ClCC(=O)C1=C(C(C(=O)O)=CC=C1)O | C9H7ClO4
reactant | N-cyclopentylglycine t-butyl ester | C(C)(C)(C)OC(CNC1CCCC1)=O | C11H21NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-chloroacetylsalicyloyl)-N-cyclopentylglycine t-butyl ester | C(C)(C)(C)OC(CN(C1CCCC1)C(C=1C(O)=C(C=CC1)C(CCl)=O)=O)=O | C20H26ClNO5
